US06248738B1
Acetic acid (8 mL) and 30% hydrogen peroxide (4 mL) were heated at 80° C. for 1 h. The cooled solution of peracetic acid was added to 6-bromoisoquinoline (Tyson, F. T. J. Am. Chem. Soc., 1939, 61, 183) (0.389 g, 1.87 mmol) and the mixture was then heated at 80° C. for 18 h. The mixture was diluted with water (15 mL) and concentrated in vacuo to ca. half the volume and the residue was extracted with CH2Cl2 (2×25 mL). The combined organics were washed with saturated aqueous NaHCO3 (25 mL), dried over MgSO4 and evaporated to leave an oil. Azeotroping with PhMe (×3) and then CH2Cl2 (×3) gave 6-bromoisoquinoline N-oxide (0.420 g, quant) as a cream-coloured solid. 1H (δ, CDCl3, 300 MHz) 7.6-7.65 (2H, m), 7.77 (1H, dd), 8.0 (1H, s), 8.2 (1H, dd), 8.85 (1H, s);

reactant | Acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 4 mL | OO | H2O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | 6-bromoisoquinoline | 1.87 mmol, 0.389 g | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
solvent | water | 15 mL | O | H2O
product | 6-bromoisoquinoline N-oxide | 0.420 g | BrC=1C=C2C=C[N+](=CC2=CC1)[O-] | C9H6BrNO
